US08754231B2
Methyl 4-amino-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-picolinate
A 50 mL round bottom flask equipped with a reflux condenser was charged with solid methyl 4-amino-6-bromo-5-fluoropicolinate (1.0 g, 4.02 mmol), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane (1.227 g, 5.02 mmol), bis(triphenylphosphine)-palladium(II) dichloride (Pd(PPh3)2Cl2; 0.141 g, 0.201 mmol), and KF (0.467 g, 8.03 mmol). The reaction mixture was flushed with nitrogen, and then solvent (3:1 acetonitrile-water, 24 mL) was added. The reaction mixture was heated to reflux under nitrogen for 2 h. Upon cooling to room temperature, the product was filtered, washed with acetonitrile followed by water, and dried in a vacuum oven overnight to give the product (0.89 g) as an off-white solid: mp 204-206° C. An additional 0.29 g of product was isolated from the filtrate for a combined yield of 89%. 1H NMR (400 MHz, DMSO-d6) δ 7.54 (d, J=6.6 Hz, 1H), 7.46 (dd, J=8.5, 1.4 Hz, 1H), 7.30 (dd, J=8.4, 7.2 Hz, 1H), 6.71 (s, 2H), 3.93 (s, 3H), 3.83 (s, 3H), 3.31 (s, 4H); 13C NMR (101 MHz, DMSO-d6) δ 164.82 (s), 153.17 (d, J=249.5 Hz), 146.87 (d, J=254.3 Hz), 143.83 (dd, J=13.4, 3.8 Hz), 143.69 (d, J=4.3 Hz), 139.05 (d, J=10.6 Hz), 128.20 (d, J=3.2 Hz), 125.96 (d, J=3.4 Hz), 125.42 (d, J=3.6 Hz), 123.83 (dd, J=14.3, 3.1 Hz), 112.54 (s), 61.56 (s), 52.25 (s); 19F NMR (376 MHz, DMSO-d6) δ−129.37 (d, J=26.0 Hz), −142.56 (d, J=26.3 Hz).

reactant | methyl 4-amino-6-bromo-5-fluoropicolinate | 4.02 mmol, 1.0 g | NC1=CC(=NC(=C1F)Br)C(=O)OC | C7H6BrFN2O2
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane | 5.02 mmol, 1.227 g | ClC1=C(C(=C(C=C1)B1OCCCO1)F)OC | C10H11BClFO3
reactant | KF | 8.03 mmol, 0.467 g | [F-].[K+]
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | 0.201 mmol, 0.141 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-amino-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-picolinate | 0.89 g | NC1=CC(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC | C14H11ClF2N2O3
